US07491713B2
Step A: tert-Butyl (3S,7S)-2-oxo-7-phenylazepan-3-ylcarbamate
10% palladium on carbon (95 mg) was added to a solution (3S,7S)-3-azido-7-phenylazepan-2-one (954 mg, 4.14 mmol) in ethanol (10 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 18 h, the mixture was filtered and concentrated. Triethylamine (0.64 mL, 4.6 mmol) was added to a solution of the crude amine and di-tert-butyl dicarbonate (1.0 g, 4.6 mmol) in dichloromethane (20 mL). After 1 h, the mixture was concentrated. Purification by silica gel chromatography (99% dichloromethane→95% dichloromethane/methanol) gave the title compound (983 mg).

reactant | (3S,7S)-3-azido-7-phenylazepan-2-one | 4.14 mmol, 954 mg | N(=[N+]=[N-])[C@@H]1C(N[C@@H](CCC1)C1=CC=CC=C1)=O | C12H14N4O
reactant | Triethylamine | 4.6 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.6 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 95 mg | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl (3S,7S)-2-oxo-7-phenylazepan-3-ylcarbamate | 983 mg | O=C1N[C@@H](CCC[C@@H]1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H24N2O3
